US07833632B2
(21-a) Synthesis of 2,6-bis(1,2-diphenyl-1H-benzimidazol-5-yl)-9,10-di(2-naphthyl)anthracene
2.0 g (3.4 mmol) of 2,6-dibromo-9,10-di(2-naphthyl)anthracene, 2.4 g (7.5 mmol) of 1,2-diphenyl-1H-benzimidazole-5-boronic acid, and 0.16 g (0.14 mmol) of tetrakis(triphenylphosphine)palladium were dissolved into 30 mL of 1,2-dimethoxyethane. Then, 15 mL of a 2 M aqueous solution of sodium carbonate were added, and the whole was refluxed under heating for 8 hours in an argon atmosphere. The resultant was stood to cool. After the completion of the reaction, the resultant was filtered, and the resultant solid was washed with water, methanol, and toluene to obtain 2.4 g of a greenish white crystal (73% yield). Mass spectral analysis confirmed that the crystal was a target product. The crystal had an m/e of 966 with respect to a molecular weight of 966.37.

reactant | 2,6-dibromo-9,10-di(2-naphthyl)anthracene | 3.4 mmol, 2.0 g | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C1=CC2=CC=CC=C2C=C1)Br)C1=CC2=CC=CC=C2C=C1 | C34H20Br2
reactant | 1,2-diphenyl-1H-benzimidazole-5-boronic acid | 7.5 mmol, 2.4 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)B(O)O)C2=CC=CC=C2 | C19H15BN2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | 2,6-bis(1,2-diphenyl-1H-benzimidazol-5-yl)-9,10-di(2-naphthyl)anthracene | 2.4 g, 73% yield | C1(=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)C2=CC1=C(C3=CC=C(C=C3C(=C1C=C2)C2=CC1=CC=CC=C1C=C2)C2=CC1=C(N(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C=C2)C2=CC1=CC=CC=C1C=C2)C2=CC=CC=C2 | C72H46N4
